US06225311B1
To a room temperature solution of 4.3 g (32.3 mmol) of 5,5-dimethyl-1,3-thiazolidine4-carboxylic acid (J. Med. Chem. 1989, 32(2 ), 466-472) in 30 ml of dioxane:water (2:1) containing 4.9 mL (35.5 mmol) of triethylamine was added 7.9 g (32.3 mmol) of 4-butynyloxybenzenesulfonyl chloride. The mixture was stirred at 25 ° C. for 18h. The resulting mixture was diluted with ethyl acetate and washed with 1N aqueous hydrochloric acid (3×). The organic phase was dried over anhydrous magnesium sulfate and concentrated in vacuo to afford a foam which was chromatographed on silica gel eluting with methanol/dichloromethane to give (4S)-3-{[4-(2- butynyloxy)phenyl]sulfonyl}-5,5-dimethyl-1,3-thiazolidine4-carboxylic acid as a white solid. Electrospray Mass Spec 368.1 (M−H)−

reactant | 5,5-dimethyl-1,3-thiazolidine4-carboxylic acid | 32.3 mmol, 4.3 g | CC1(C(NCS1)C(=O)O)C | C6H11NO2S
reactant | triethylamine | 35.5 mmol, 4.9 mL | C(C)N(CC)CC | C6H15N
reactant | 4-butynyloxybenzenesulfonyl chloride | 32.3 mmol, 7.9 g | C(#CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
solvent | dioxane water | 30 ml | O1CCOCC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4S)-3-{[4-(2- butynyloxy)phenyl]sulfonyl}-5,5-dimethyl-1,3-thiazolidine4-carboxylic acid | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N1CSC([C@@H]1C(=O)O)(C)C | C16H19NO5S2
